US09062056B2
(R)-3-[3-(4,6-Dimethyl-benzo[d]isothiazol-3-ylmethyl)-2-oxo-2,3-dihydro-imidazo[4,5-c]pyridin-1-yl]-3-phenyl-propionic acid
To a solution of (R)-3-[3-(4,6-dimethyl-benzo[d]isothiazol-3-ylmethyl)-2-oxo-2,3-dihydro-imidazo[4,5-c]pyridin-1-yl]-3-phenyl-propionic acid ethyl ester (10 mg, 0.021 mmol) in 1,4-dioxane (5 mL) and water (1 mL) was added lithium hydroxide (LiOH) (0.9 mg, 0.042 mmol) at room temperature. The solution was stirred at the same temperature for 4 hours. The solution was concentrated and water was added to the residue. The solution was acidified by 12N HCl in an ice-bath. The solution was concentrated and the residue was purified by preparative TLC with 10% MeOH in CH2Cl2 as the eluent to afford the title compound (8.3 mg, 88%): LCMS, M++1, m/z: 459.13 as a white solid.

reactant | (R)-3-[3-(4,6-dimethyl-benzo[d]isothiazol-3-ylmethyl)-2-oxo-2,3-dihydro-imidazo[4,5-c]pyridin-1-yl]-3-phenyl-propionic acid ethyl ester | 0.021 mmol, 10 mg | C(C)OC(C[C@H](C1=CC=CC=C1)N1C(N(C=2C=NC=CC21)CC2=NSC1=C2C(=CC(=C1)C)C)=O)=O | C27H26N4O3S
reactant | lithium hydroxide | 0.042 mmol, 0.9 mg | [OH-].[Li+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | (R)-3-[3-(4,6-Dimethyl-benzo[d]isothiazol-3-ylmethyl)-2-oxo-2,3-dihydro-imidazo[4,5-c]pyridin-1-yl]-3-phenyl-propionic acid | 8.3 mg, 88% | CC1=CC(=CC2=C1C(=NS2)CN2C(N(C1=C2C=NC=C1)[C@H](CC(=O)O)C1=CC=CC=C1)=O)C | C25H22N4O3S
